US08557984B2
Reference Compound D: Methyl [(3S)-5-(4-chlorophenyl)-7-(methyloxy)-2-oxo-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]acetate
To a solution of methyl N1-[2-[(4-chlorophenyl)carbonyl]-4-(methyloxy)phenyl]-N2-{[(9H-fluoren-9-ylmethyl)oxy]carbonyl}-L-α-asparaginate (for a preparation see Reference compound C) (assumed 0.2 mol) in DCM (500 ml) was added Et3N (500 ml, 3.65 mol) and the resulting mixture was refluxed for 24 h before being concentrated. The resulting crude amine was dissolved in 1,2-DCE (1.5 L) and AcOH (104 ml, 1.8 mol) was added carefully. The reaction mixture was then stirred at 60° C. for 2 h before being concentrated in vacuo and dissolved in DCM. The organic layer was washed with 1N HCl and the aqueous layer was extracted with DCM (×3). The combined organic layers were washed twice with water, and brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude solid was recrystallised in MeCN leading to the title compound (51 g) as a pale yellow solid. The filtrate could be concentrated and recrystallised in MeCN to give to another 10 g of the desired product Rf=0.34 (DCM/MeOH:95/5).

reactant | methyl N1-[2-[(4-chlorophenyl)carbonyl]-4-(methyloxy)phenyl]-N2-{[(9H-fluoren-9-ylmethyl)oxy]carbonyl}-L-α-asparaginate | ClC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OC)NC([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC(=O)OC)=O | C34H29ClN2O7
reactant | Et3N | 3.65 mol, 500 ml | CCN(CC)CC | C6H15N
reactant | AcOH | 1.8 mol, 104 ml | CC(=O)O | C2H4O2
solvent | DCM | 500 ml | C(Cl)Cl | CH2Cl2
product | Methyl [(3S)-5-(4-chlorophenyl)-7-(methyloxy)-2-oxo-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]acetate | 10 g | ClC1=CC=C(C=C1)C1=N[C@H](C(NC2=C1C=C(C=C2)OC)=O)CC(=O)OC | C19H17ClN2O4
